US04959366
(B) 1-[N-Methyl-N-(4-nitrophenethyl)amino]-2-chloropropane
Thionyl chloride (50 ml) was added dropwise with stirring and cooling in an ice/water bath to 1-(N-methyl-N-(4-nitrophenethyl)amino)-2-hydroxypropane (1.5 g). After stirring at room temperature for 1 hour, the solution was refluxed on a steam bath for a further 2 hours. The solution was evaporated to dryness and the residual oil partitioned between 2N aqueous sodium carbonate solution and ethyl acetate. After two further extractions with ethyl acetate, the organic portions were combined, washed with a saturated brine solution, dried over anhydrous magnesium sulphate, filtered and evaporated to dryness. The resultant brown oil was chromatographed on silica ("Kieselgel 60"- Trade Mark) eluting with ethyl acetate followed by collection and evaporation of suitable fractions to give the title compound as a yellow oil, (0.75 g).

reactant | 1-(N-methyl-N-(4-nitrophenethyl)amino)-2-hydroxypropane | 1.5 g | CN(CCC1=CC=C(C=C1)[N+](=O)[O-])CC(C)O | C12H18N2O3
reactant | Thionyl chloride | 50 ml | S(=O)(Cl)Cl | Cl2OS
product | 1-[N-Methyl-N-(4-nitrophenethyl)amino]-2-chloropropane | 0.75 g | CN(CCC1=CC=C(C=C1)[N+](=O)[O-])CC(C)Cl | C12H17ClN2O2
